US07112585B2
To a suspension of sodium hydride (60% in oil, 1.71 g, 42.8 mmol) in THF (40 mL), 4-methoxybenzenethiol (5.0 g, 35.7 mmol) was added dropwise at room temperature over a period of 10 min. The mixture was stirred at room temperature under N2 for 10 min and then cooled to 0° C. Ethyl bromoacetate (4.0 mL, 36 mmol) was added dropwise at 0° C. over a period of 10 min. The reaction mixture was stirred at room temperature for 30 min and then quenched with saturated ammonium chloride. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (1:9 ethyl acetate/hexanes) to provide (4-methoxy-phenylsulfanyl)-acetic acid ethyl ester (7.9 g, 98%) as colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.42 (d, J=6.6 Hz, 2H), 6.84 (d, J=6.6 Hz, 2H), 4.11 (q, J=7.1 Hz, 2H), 3.80 (s, 3H), 3.51 (s, 2H), 1.21 (t, J=7.1 Hz, 3H); ESI MS m/z 227 [(M+H)+, calcd for C11H15O3S, 227.0].

reactant | sodium hydride | 42.8 mmol, 1.71 g | [H-].[Na+]
reactant | 4-methoxybenzenethiol | 35.7 mmol, 5.0 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | Ethyl bromoacetate | 36 mmol, 4.0 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4-methoxy-phenylsulfanyl)-acetic acid ethyl ester | 7.9 g, 98% | C(C)OC(CSC1=CC=C(C=C1)OC)=O | C11H14O3S
